US08580762B2
3-(3-((((3aR,4R,6R,6aS)-6-(4-((2,4-dimethoxybenzyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)methyl)(isobutyl)amino)cyclobutyl)propanoic acid
Lithium hydroxide, monohydrate (1.11 g, 26.4 mmol) was added to a solution ethyl 3-(3-((((3aR,4R,6R,6aS)-6-(4-((2,4-dimethoxybenzyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)methyl)(isobutyl)amino)cyclobutyl)propanoate (1.75 g, 2.64 mmol) in Tetrahydrofuran (13 ml, 160 mmol) and Methanol (3 ml, 70 mmol). The reaction was stirred for 24 hours at RT, acidified with 1 N HCl to pH=6, the volatiles removed in vacuo and remaining water removed by azeotropic distillation with ethanol followed by 18 hours on lyophilizer. The resulting off white solid was used without further purification.

reactant | Lithium hydroxide, monohydrate | 26.4 mmol, 1.11 g | O.[OH-].[Li+]
reactant | ethyl 3-(3-((((3aR,4R,6R,6aS)-6-(4-((2,4-dimethoxybenzyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)methyl)(isobutyl)amino)cyclobutyl)propanoate | 2.64 mmol, 1.75 g | COC1=C(CNC=2C3=C(N=CN2)N(C=C3)[C@@H]3C[C@@H]([C@@H]2[C@H]3OC(O2)(C)C)CN(C2CC(C2)CCC(=O)OCC)CC(C)C)C=CC(=C1)OC | C37H53N5O6
reactant | Tetrahydrofuran | 160 mmol, 13 ml | O1CCCC1 | C4H8O
reactant | Methanol | 70 mmol, 3 ml | CO | CH4O
reactant | HCl | 1 N | Cl | ClH
product | 3-(3-((((3aR,4R,6R,6aS)-6-(4-((2,4-dimethoxybenzyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)methyl)(isobutyl)amino)cyclobutyl)propanoic acid | COC1=C(CNC=2C3=C(N=CN2)N(C=C3)[C@@H]3C[C@@H]([C@@H]2[C@H]3OC(O2)(C)C)CN(C2CC(C2)CCC(=O)O)CC(C)C)C=CC(=C1)OC | C35H49N5O6
